US08309580B2
(4) 4-[cyclohexyl(5-cyclohexyl-2-ethylthiophen-3-yl)methoxy]benzoic acid
To a mixture of methyl 4-[cyclohexyl(5-cyclohexyl-2-ethylthiophen-3-yl)methoxy]benzoate (560 mg) synthesized above, tetrahydrofuran (10 mL) and ethanol (10 mL) was added 1N aqueous sodium hydroxide solution (5 mL), and the mixture was stirred with heating under reflux overnight. The reaction mixture was concentrated under reduced pressure, 1N hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give a white solid. The obtained solid was recrystallized from ethyl acetate-hexane to give the title compound (194 mg, 36%) as a colorless crystal.

reactant | methyl 4-[cyclohexyl(5-cyclohexyl-2-ethylthiophen-3-yl)methoxy]benzoate | 560 mg | C1(CCCCC1)C(OC1=CC=C(C(=O)OC)C=C1)C1=C(SC(=C1)C1CCCCC1)CC | C27H36O3S
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-[cyclohexyl(5-cyclohexyl-2-ethylthiophen-3-yl)methoxy]benzoic acid | 194 mg, 36% | C1(CCCCC1)C(OC1=CC=C(C(=O)O)C=C1)C1=C(SC(=C1)C1CCCCC1)CC | C26H34O3S
